US06465467B1
Step 1: 2-(3,5-Difluorophenoxy)-1-ethanol.
In a sealed Pyrex tube, a mixture of 3,5-difluorophenol (2.19 g, 16.8 mmol), ethylene carbonate (1.0 g, 11.4 mmol), a catalytic amount of NaH (60% in mineral oil) in DMF (1 mL) was reacted in a Labwell MW-10 microwave reactor at 50W for 3 min. The reaction mixture was diluted with toluene and washed with 5% aqueous NaOH. The organic phase was dried (MgSO4) and concentrated. This gave 1.59 g (80%) of the title compound as a light red oil. MS m/z 174 (M)+.

reactant | 3,5-difluorophenol | 16.8 mmol, 2.19 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | ethylene carbonate | 11.4 mmol, 1.0 g | C1(OCCO1)=O | C3H4O3
reactant | NaH | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(3,5-Difluorophenoxy)-1-ethanol | FC=1C=C(OCCO)C=C(C1)F | C8H8F2O2
